US05504071
Synthesis and pharmacological activity of Z-(L)-Pro-(L)-Ala-(L)-PhgOMe (compound 5)
A suspension of 1,500 g (4.68 mmoles) of Z-(L)-Pro-(L)-AlaOH (Sigma) in 60 ml of dry methylene chloride (CH2Cl2) was brought, under stirring and in an argon atmosphere, to the temperature of the ice and salt bath. The following were then added in succession: 0.800 g (4.73 mmoles) of commercial 1-hydroxybenzotriazole (HOBt) and 0.900 g (4.69 mmoles) of N-(dimethylaminopropyl)-N'-ethylcarbodiimide.HCl (EDC). Keeping the temperature under control, the mixture was left under stirring for 10 minutes and then the following were added in succession: 0.940 g (4.66 mmoles) of (L)-PhgOMe.HCl (Bachem) and 0.520 ml (4.72 mmoles) of 4-methylmorpholine (NMM), maintaining the temperature for a further 2 hours. The mixture was then left under stirring and static argon for 12 hours with the temperature free to rise to room temperature. The solid white precipitate was filtered away and washed with a little CH2Cl2. The latter was put back into the filtered reaction solution, which was extracted in succession using 5% NaHCO3 (3×30 ml); saturated aqueous NaCl (2×30 ml); 4% KHSO4 (3×30 ml) and finally saturated aqueous NaCl (2 ×30 ml), discarding the aqueous phases. The organic phase extracted was left in a cold chamber under argon and on anhydrous Na2SO4 for 12 hours. The desiccant was then filtered away, the solution concentrated to a small volume and the dense residual liquid was ground with anhydrous ethyl ether a number of times, decanting each time and discarding the ether phase. The residual solid was left for 24 hours under vacuum on P2O5. 1.630 g (74.8%) of an analytically pure powdery white solid were recovered.

reactant | Z-(L)-Pro-(L)-AlaOH | 4.68 mmoles, 1,500 g | N1([C@H](C(=O)N[C@@H](C)C(=O)O)CCC1)C(=O)OCC1=CC=CC=C1 | C16H20N2O5
reactant | 1-hydroxybenzotriazole | 4.73 mmoles, 0.800 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(dimethylaminopropyl)-N'-ethylcarbodiimide | 4.69 mmoles, 0.900 g | CN(C)CCCN=C=NCC | C8H17N3
reactant | HCl | Cl | ClH
reactant | (L)-PhgOMe.HCl | 4.66 mmoles, 0.940 g | N[C@@H](C1=CC=CC=C1)C(=O)OC.Cl
reactant | 4-methylmorpholine | 4.72 mmoles, 0.520 ml | CN1CCOCC1 | C5H11NO
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | Z-(L)-Pro-(L)-Ala-(L)-PhgOMe | N1([C@H](C(=O)N[C@@H](C)C(=O)N[C@@H](C2=CC=CC=C2)C(=O)OC)CCC1)C(=O)OCC1=CC=CC=C1 | C25H29N3O6
